** sch_path: /home/nithin/eda/SKY130_DESIGN_IPS/POR/cmos_sachmitt_trigger.sch
**.subckt cmos_sachmitt_trigger
XM1 net1 VIN 0 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 VOUT VIN net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM3 VDD VOUT net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=30 nf=1 ad=8.7 as=8.7 pd=60.58 ps=60.58 nrd=0.00966666666666667
+ nrs=0.00966666666666667 sa=0 sb=0 sd=0 mult=1
XM4 VOUT VIN net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult=1
XM5 net2 VIN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM6 net2 VOUT 0 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
V2 VDD 0 1.8
V1 VIN 0 0.9
**** begin user architecture code


.option wnflag=1
.option savecurrents
.temp 27
.control
save all
op
write cmos_schmitt_trigger.raw
set appendwrite
dc V1 0 1.8 1m
plot v(VOUT) vs v(VIN)
plot Idiff
write cmos_schmitt_trigger.raw
.endc



** opencircuitdesign pdks install
.lib /home/nithin/.ciel/sky130A/libs.tech/combined/sky130.lib.spice tt

**** end user architecture code
**.ends
.GLOBAL VDD
.end
