** sch_path: /home/nithin/eda/SKY130_DESIGN_IPS/POR/cmos_schmitt_trigger.sch
**.subckt cmos_schmitt_trigger
XM1 net1 VIN 0 GND sky130_fd_pr__nfet_01v8 L=8 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2 VOUT VIN net1 GND sky130_fd_pr__nfet_01v8 L=8 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM3 VDD VOUT net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=6.5 nf=1 ad=1.885 as=1.885 pd=13.58 ps=13.58 nrd=0.0446153846153846
+ nrs=0.0446153846153846 sa=0 sb=0 sd=0 mult=1
XM4 VOUT VIN net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1
XM5 net2 VIN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=1
XM6 net2 VOUT 0 VDD sky130_fd_pr__pfet_01v8 L=10 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
V2 VDD 0 1.8
V1 VIN 0 PULSE(0 1.8 0 1m 1m 10u 2m)
**** begin user architecture code

** opencircuitdesign pdks install
.lib /home/nithin/.ciel/sky130A/libs.tech/combined/sky130.lib.spice tt



.option wnflag=1
.option savecurrents
.temp 27
.control
save all
op
write cmos_schmitt_trigger.raw
set appendwrite
tran 1u 2m
plot v(Vout) v(Vin)
write cmos_schmitt_trigger.raw

.endc


**** end user architecture code
**.ends
.GLOBAL VDD
.end
